US09062085B2
Preparation of (3,5-dimethoxyphenyl)diphenylphosphine oxide
1-Bromo-3,5-dimethoxybenzene (10 g, 46.1 mmol) in THF (60 ml) was added to a Schlenk flask (250 ml) with magnesium (1.2 g, 49.9 mmol), I2 (10 mg) and THF (40 ml). The mixture was reflux for 2 h. It was cooled to RT. The resulting light brown solution was transferred to another flask (250 ml) and it was cooled to −78° C. Chlorodiphenylphosphine (11 g, 49.9 mmol) in THF (30 ml) was added at −78° C. The mixture was stirred at −78° C. for 1 h, then it was slowly warmed up to RT and stirred at RT for 1 h. To the resulting reactions, water (50 ml) was added, then H2O2 (30%, 13 ml) was added dropwise at 0° C. The resulting mixture was stirred for 30 min. The organic layer was separated and the aqueous layer was extracted with ethyl acetate (50 ml×2). The combined organic layer was washed thoroughly with NaHSO3 (100 ml×3) and brine (100 ml×2) and dried over MgSO4. It was filtered and the solvent was removed to give a viscous oil which was purified with crystallization (CH2Cl2/Hexane=1:20) to give the product as a colorless solid (15.2 g, Yield: 97.5%). 1H NMR (300 Mhz, CD2Cl2) δ: 7.72-7.64 (m, 4H), 7.60-7.54 (m, 2H), 7.52-7.45 (m, 4H), 6.79 (dd, J1=2.1 Hz, 13.2 Hz, 2H), 6.64 (t, J=2.1 Hz, 1H), 3.77 (s, 6H). 31P NMR (121.5 MHz, CD2Cl2) δ: 29.03. 13C (75 MHz, CD2Cl2) δ: 161.18 (d, J=17.6 Hz), 135.17 (d, J=102 Hz), 132.99 (d, J=103 Hz), 132.12 (d, J=2.9 Hz), 132.11 (d, J=9.8 Hz), 109.87 (d, J=10.9 Hz), 103.91 (d, J=2.3 Hz), 55.74.

reactant | 1-Bromo-3,5-dimethoxybenzene | 46.1 mmol, 10 g | BrC1=CC(=CC(=C1)OC)OC | C8H9BrO2
reactant | magnesium | 49.9 mmol, 1.2 g | [Mg] | Mg
reactant | Chlorodiphenylphosphine | 49.9 mmol, 11 g | ClP(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10ClP
reactant | H2O2 | 13 ml | OO | H2O2
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
catalyst | I2 | 10 mg | II | I2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | (3,5-dimethoxyphenyl)diphenylphosphine oxide | 15.2 g, Yield: 97.5% | COC=1C=C(C=C(C1)OC)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C20H19O3P
